US06143779
Synthesis of 2-[(3,4-dimethoxyphenyl)methylene]-6-benzoyloxy-3(2H)-benzofuranone
After 2-[(3,4-dimethoxyphenyl)methylene]-6-hydroxy-3(2H)-benzofuranone 0.5 g was dissolved in pyridine 5 ml, benzoyl chloride 0.282 ml was added, and the mixture was refluxed for two hours. The reaction mixture was cooled to room temperature, ethyl acetate 50 ml was added, and the mixture was washed with 2N-hydrochloric acid 50 ml twice and with saturated sodium bicarbonate solution 50 ml. After the ethyl acetate solution was dehydrated with anhydrous magnesium sulfate, it was concentrated under reduced pressure. The residue was fractionated by silica gel column chromatography (silica gel: 50 g, eluted with solvent 500 ml of hexane:ethyl acetate=1:1) and the fraction was concentrated to dryness at a temperature of 40° C. under reduced pressure to obtain crystals. The crystals were dried over phosphorous pentoxide at a temperature of 60° C. for four hours under reduced pressure to obtain the desired compound 294.6 mg.

reactant | 2-[(3,4-dimethoxyphenyl)methylene]-6-hydroxy-3(2H)-benzofuranone | 0.5 g | COC=1C=C(C=CC1OC)C=C1OC2=C(C1=O)C=CC(=C2)O | C17H14O5
reactant | benzoyl chloride | 0.282 ml | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
solvent | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
product | 2-[(3,4-dimethoxyphenyl)methylene]-6-benzoyloxy-3(2H)-benzofuranone | 294.6 mg | COC=1C=C(C=CC1OC)C=C1OC2=C(C1=O)C=CC(=C2)OC(C2=CC=CC=C2)=O | C24H18O6
